US07465736B2
(2-chloropyrimidin-4-yl)-(4-ethyl-3H-thiazol-2ylidene)-acetonitrile
To a suspension of LiH (699 mg, 87.90 mmol) in anhydrous THF was added dropwise a suspension of (4-ethyl-1,3-thiazol-2-yl)acetonitrile (6.69 g, 43.95 mmol) in THF (60 mL) and the suspension was stirred for 1 h at 0° C. A suspension of 2,4-dichloropyrimidine (7.2 g, 48.34 mmol) in THF (60 mL) was added dropwise to the pale red suspension at 0° C. and the resulting mixture was stirred at rt for 7 h. The reaction was quenched by addition water (10 mL) at 0° C. then the solution obtained was left overnight under stirring. The THF was removed under reduced pressure then 80 mL of water were added and the suspension was acidified with 1N HCl. The precipitate formed was filtered off and washed with water until neutral pH to afford 9.96 g of the title compound as a beige powder (Y=85.5%).

reactant | LiH | 87.90 mmol, 699 mg | [H-].[Li+]
reactant | (4-ethyl-1,3-thiazol-2-yl)acetonitrile | 43.95 mmol, 6.69 g | C(C)C=1N=C(SC1)CC#N | C7H8N2S
reactant | 2,4-dichloropyrimidine | 48.34 mmol, 7.2 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2-chloropyrimidin-4-yl)-(4-ethyl-3H-thiazol-2ylidene)-acetonitrile | 9.96 g, 85.5% | ClC1=NC=CC(=N1)C(C#N)=C1SC=C(N1)CC | C11H9ClN4S
